US04303768
About 30 parts by weight of an aqueous sodium silicate solution containing 14.7% Na2O and 29.4% SiO2 by weight, 20 parts by weight of styrenes, 0.5 parts by weight of the sodium salt of ricinoleic sulphonates and 1 part by weight of benzoic acid are thoroughly mixed and emulsified; then 0.1 part by weight of potassium persulfate, 0.01 part by weight of ferric sulfate and 0.1 part by weight of benzoyl peroxide is added to the emulsion and thoroughly mixed at ambient temperature (24° C.) and pressure. The mixture is polymerized in 1 to 24 hours thereby producing a poly(sodium silicate-styrene) copolymer emulsion.

reactant | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | sodium | [Na] | Na
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | potassium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | sodium silicate styrene | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].C=CC1=CC=CC=C1 | InChI=1S/C8H8.4Na.O4Si/c1-2-8-6-4-3-5-7-8;;;;;1-5(2,3)4/h2-7H,1H2;;;;;/q;4*+1;-4
